US06710060B2
Synthesis of N-(4-n-butoxyphenyl)-2-(1-benzyl-4-hydroxypiperidin-4-yl)acetamide
To a solution of (1-benzyl-4-hydroxypiperidin-4-yl) acetic acid lithium salt (3.09 g) in methylene chloride (60 mL) were added 4-n-butoxyaniline (2.0 g) and pyridine (2.14 mL). Phosphorous oxychloride (1.19 mL) was added dropwise to the solution under cooling with an ice-sodium chloride, followed by stirring at 5 to 10° C. for 1 hour. The mixture was made alkaline with saturated aqueous sodium bicarbonate under cooling with an ice-water, and the solution was extracted with ethyl acetate. The organic layer was washed with water and saturated brine and dried over anhydrous sodium sulfate, and then, the solvent was distilled off under reduced pressure. The residue was purified with silica gel column chromatography (elution solvent; methylene chloride:methanol=19:1 to 9:1) to obtain the titled compound (1.15 g).

reactant | (1-benzyl-4-hydroxypiperidin-4-yl) acetic acid lithium salt | 3.09 g | [Li+].C(C1=CC=CC=C1)N1CCC(CC1)(O)CC(=O)[O-]
reactant | 4-n-butoxyaniline | 2.0 g | C(CCC)OC1=CC=C(N)C=C1 | C10H15NO
reactant | Phosphorous oxychloride | 1.19 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 2.14 mL | N1=CC=CC=C1 | C5H5N
product | N-(4-n-butoxyphenyl)-2-(1-benzyl-4-hydroxypiperidin-4-yl)acetamide | 1.15 g | C(CCC)OC1=CC=C(C=C1)NC(CC1(CCN(CC1)CC1=CC=CC=C1)O)=O | C24H32N2O3
